### PR TITLE
[Merged by Bors] - feat(MeasureTheory): Outer regular measures are determined by values on bounded open sets

### PR DESCRIPTION
**Pull request by CoolRmal**
We proved that

- Every open set in a metric space is a countable union of bounded open sets.
- Outer regular measures are determined by values on bounded open sets.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Bounded.lean [hunk 1]
```diff
@@ -79,6 +79,17 @@ theorem isBounded_closedBall : IsBounded (closedBall x r) :=
 theorem isBounded_ball : IsBounded (ball x r) :=
   isBounded_closedBall.subset ball_subset_closedBall
 
+/-- Every open set in a metric space is a countable union of bounded open sets. -/
+theorem eq_countable_union_of_bounded_of_isOpen {U : Set α} (hU : IsOpen U) :
+    ∃ f : ℕ → Set α, Monotone f ∧ ⋃ i, f i = U ∧ (∀ i, IsBounded (f i) ∧ IsOpen (f i)) := by
+  by_cases! hn : U.Nonempty
+  · refine ⟨fun i => U ∩ ball hn.some i, fun i j hij => ?_, ?_, fun i => ⟨?_, ?_⟩⟩
```
Comment (kex-y) [inline Mathlib/Topology/MetricSpace/Bounded.lean]: Can you replace `=>` with the unicode version (\mapsto) (same above) and golf the proof a bit by inlining the exacts?

File: Mathlib/Topology/MetricSpace/Bounded.lean [hunk 2]
```diff
@@ -79,6 +79,16 @@ theorem isBounded_closedBall : IsBounded (closedBall x r) :=
...
 
+/-- Every open set in a metric space is a countable union of bounded open sets. -/
+theorem eq_countable_union_of_bounded_of_isOpen {U : Set α} (hU : IsOpen U) :
+    ∃ f : ℕ → Set α, Monotone f ∧ ⋃ i, f i = U ∧ (∀ i, IsBounded (f i) ∧ IsOpen (f i)) := by
+  by_cases! hn : U.Nonempty
+  · refine ⟨fun i ↦ U ∩ ball hn.some i, fun i j hij ↦ ?_, ?_, fun i ↦ ⟨?_, hU.inter isOpen_ball⟩⟩
+    · exact inter_subset_inter_right _ (ball_subset_ball (Nat.cast_le.2 hij))
+    · simp [← inter_iUnion]
+    · exact isBounded_ball.subset inter_subset_right
+  · exact ⟨fun i ↦ ∅, monotone_const, by simp_all⟩
```
Comment (EtienneC30) [inline Mathlib/Topology/MetricSpace/Bounded.lean:86]: This is just a detail, but using `obtain` or `rcases` you can do the case disjunction in a nicer way (also you are not really using the fact that `U` is nonempty, but only that the whole space is nonempty`):
```suggestion
  obtain rfl | ⟨x, -⟩ := U.eq_empty_or_nonempty
  · exact ⟨fun i ↦ ∅, monotone_const, by simp_all⟩
  refine ⟨fun i ↦ U ∩ ball x i, fun i j hij ↦ ?_, ?_, fun i ↦ ⟨?_, hU.inter isOpen_ball⟩⟩
  · exact inter_subset_inter_right _ (ball_subset_ball (Nat.cast_le.2 hij))
  · simp [← inter_iUnion]
  · exact isBounded_ball.subset inter_subset_right
```

File: Mathlib/Topology/MetricSpace/Bounded.lean [hunk 3]
```diff
@@ -79,6 +79,16 @@ theorem isBounded_closedBall : IsBounded (closedBall x r) :=
 theorem isBounded_ball : IsBounded (ball x r) :=
   isBounded_closedBall.subset ball_subset_closedBall
 
+/-- Every open set in a metric space is a countable union of bounded open sets. -/
+theorem eq_countable_union_of_bounded_of_isOpen {U : Set α} (hU : IsOpen U) :
```
Comment (EtienneC30) [inline Mathlib/Topology/MetricSpace/Bounded.lean]:
```suggestion
theorem eq_countable_union_of_isBounded_of_isOpen {U : Set α} (hU : IsOpen U) :
```

File: Mathlib/Topology/MetricSpace/Bounded.lean (hunk 1 above)
Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/Bounded.lean]: I don't think that there is consensus that \mapsto is prefered over `=>`, is there?

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 4]
```diff
@@ -482,6 +482,15 @@ theorem ext_isOpen {ν : Measure α} [OuterRegular μ] [OuterRegular ν]
   congr! 4 with t _ ht2
   exact hμν t ht2
 
+/-- Outer regular measures are determined by values on bounded open sets. -/
+theorem ext_isOpen_isBounded {α : Type*} [PseudoMetricSpace α] [MeasurableSpace α]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Regular.lean]:
```suggestion
theorem ext_isOpen_isBounded {α : Type*} [PseudoMetricSpace α] {mα : MeasurableSpace α}
```
maintainer delegate

File: Mathlib/Topology/MetricSpace/Bounded.lean [hunk 5]
```diff
@@ -79,6 +79,16 @@ theorem isBounded_closedBall : IsBounded (closedBall x r) :=
 theorem isBounded_ball : IsBounded (ball x r) :=
   isBounded_closedBall.subset ball_subset_closedBall
 
+/-- Every open set in a metric space is a countable union of bounded open sets. -/
+theorem eq_countable_union_of_isBounded_of_isOpen {U : Set α} (hU : IsOpen U) :
+    ∃ f : ℕ → Set α, Monotone f ∧ ⋃ i, f i = U ∧ (∀ i, IsBounded (f i) ∧ IsOpen (f i)) := by
```
Comment (fpvandoorn) [inline Mathlib/Topology/MetricSpace/Bounded.lean]:
```suggestion
    ∃ f : ℕ → Set α, Monotone f ∧ ⋃ i, f i = U ∧ ∀ i, IsBounded (f i) ∧ IsOpen (f i) := by
```
these are superfluous.

Otherwise LGTM.

bors d+

File: Mathlib/MeasureTheory/Measure/Regular.lean (hunk 4 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: May I know why this is better? Currently [MeasureTheory.Measure.OuterRegular.ext_isOpen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Regular.html#MeasureTheory.Measure.OuterRegular.ext_isOpen) also uses `[MeasurableSpace α]` instead of `{mα : MeasurableSpace α}`.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: When there is a measure in the statement, the sigma-algebra can be inferred from it, so there is no need to have a typeclass argument. On the other hand, in contexts with several different sigma-algebras over the same space, having a typeclass argument can create an issue because the synthesized sigma-algebra might not match the one inferred from the measure and things will break.
